US07566739B2
2-(4-TERT-BUTYL-3,5-DIFLUOROPHENOXY)-N-((1R)-1-{3-FLUORO-4-[(METHYLSULFONYL)AMINO]PHENYL}ETHYL)ACETAMIDE
(4-tert-Butyl-3,5-difluorophenoxy)acetic acid (166 mg, 0.68 mmol), 2-chloro-1,3-dimethylimidazolinium chloride (CDI) (110 mg, 0.68 mmol), triethylamine (0.5 ml) and N-{4-[(1R)-1-aminoethyl]-2-fluorophenyl}methanesulfonamide hydrochloride (183 mg, 0.68 mmol) were mixed by the same procedure as described in Example 1(e) to give 115 mg (37%) of the title compound as a white solid.

reactant | (4-tert-Butyl-3,5-difluorophenoxy)acetic acid | 0.68 mmol, 166 mg | C(C)(C)(C)C1=C(C=C(OCC(=O)O)C=C1F)F | C12H14F2O3
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.68 mmol, 110 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | N-{4-[(1R)-1-aminoethyl]-2-fluorophenyl}methanesulfonamide hydrochloride | 0.68 mmol, 183 mg | Cl.N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)F
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-TERT-BUTYL-3,5-DIFLUOROPHENOXY)-N-((1R)-1-{3-FLUORO-4-[(METHYLSULFONYL)AMINO]PHENYL}ETHYL)ACETAMIDE | 115 mg, 37% | C(C)(C)(C)C1=C(C=C(OCC(=O)N[C@H](C)C2=CC(=C(C=C2)NS(=O)(=O)C)F)C=C1F)F | C21H25F3N2O4S
